US07838543B2
N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-3-(4-methoxy-phenyl)-acrylamide
Prepare according to Method B, using trans-4-methoxycinnamic acid (112 mg, 0.629 mmol) and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (162 mg, 0.618 mmol) to afford the title compound (15 mg, 6%). mass spectrum (m/e): 423.3 [M+H], 421.3 [M−H].

reactant | trans-4-methoxycinnamic acid | 0.629 mmol, 112 mg | COC1=CC=C(/C=C/C(=O)O)C=C1 | C10H10O3
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.618 mmol, 162 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-3-(4-methoxy-phenyl)-acrylamide | 15 mg, 6% | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)NC(C=CC2=CC=C(C=C2)OC)=O)C | C23H26N4O2S
